*
.SUBCKT PMBTA43 1 2 3 
* housing parasitics
LB 2 22 1.25E-09 
LE 3 33 1.12E-09 
LC 1 11 1E-10 
CBCG 22 11 6.2E-14 
CBEG 22 33 4.5E-14 
CCEG 11 33 6.2E-14 
Q1 11 22 33 QPMBTA43 
*
.MODEL QPMBTA43 NPN( 
+    IS = 1.766E-14 
+    NF = 0.9902 
+    ISE = 1.982E-15 
+    NE = 1.25 
+    BF = 108.1 
+    IKF = 0.21 
+    VAF = 394 
+    NR = 0.99 
+    ISC = 9.5E-10 
+    NC = 1.95 
+    BR = 4.928 
+    IKR = 0.045 
+    VAR = 57 
+    RB = 100 
+    IRB = 2E-05 
+    RBM = 0.01 
+    RE = 0.365 
+    RC = 1.5 
+    XTB = 0 
+    EG = 1.11 
+    XTI = 3 
+    CJE = 4.181E-11 
+    VJE = 0.6301 
+    MJE = 0.329 
+    TF = 1.303E-09 
+    XTF = 35 
+    VTF = 5 
+    ITF = 0.11 
+    PTF = 0 
+    CJC = 4.632E-12 
+    VJC = 0.2621 
+    MJC = 0.4164 
+    XCJC = 0.4132 
+    TR = 1.9E-07 
+    CJS = 0 
+    VJS = 0.75 
+    MJS = 0.333 
+    FC = 0.842) 
.ENDS
*
